US05827865
Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-ethoxypropanoate
Rhodium (II) acetate dimer (33 mg) was added to a mixture of methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-diazopropanoate (2.80 g), ethanol (2.16 mL) and benzene (50 mL). The mixture was stirred at room temperature under a nitrogen atmosphere for 15 minutes, heated at reflux for a further 15 minutes, then cooled and evaporated in vacuo. The residue was chromatographed on silica gel using 1.5% methanol in dichloromethane as eluent to afford the title compound as a gum.

reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-diazopropanoate | 2.80 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)=[N+]=[N-] | C20H20N4O4
reactant | ethanol | 2.16 mL | C(C)O | C2H6O
catalyst | Rhodium (II) acetate dimer | 33 mg | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-ethoxypropanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)OCC | C22H26N2O5
